* C:\users\thatiannecarvalho\My Documents\Faculdade\9ºSemestre\MI - PDS\pbl3\DAC.asc
R1 N003 N002 1k
R2 N003 B 2k
R3 N004 N003 668
V1 N002 0 5
V5 N001 0 12
V2 A 0 1
V3 B 0 5
XU3 0 N003 N001 N006 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 Vout N005 1k
XU1 0 N005 N001 0 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N005 N004 1k
V4 N006 0 -12
.model SW SW()
.tran 0 1.5 0 0.02
.lib UniversalOpamps2.sub
.backanno
.end
